US07732461B2
(a) 3-[3-Bromo-5-(1,3-dioxolan-2-yl)-2-thienyl]-1-propanol
2-(4,5-Dibromo-2-thienyl)-1,3-dioxolane (for a synthesis, see J Org Chem, 1976, 41, 8) (6.05 g, 19.2 mmol) was dissolved in dry THF (500 ml) and cooled to −78° C. After 15 min the reaction mixture was treated with 3-(tert-butyldimethylsilyloxy)-1-iodopropane (6.3 g, 1.1 equiv.) (for a synthesis, see J. Chem. Soc. Perkin Trans. 1, 1190, 1111). After a further 15 min. the cooling bath was removed and the reaction allowed warm to room temperature overnight. The reaction was quenched with saturated aqueous ammonium chloride, and partitioned between ethyl acetate and water. The organic phase was dried over anhydrous magnesium sulphate and evaporated. The residue was chromatographed on silica gel eluting with 0-10% ethyl acetate in hexane. Product-containing fractions were combined and evaporated to a colourless oil) 5.61 g. This was dissolved in THF (100 ml) and treated with tetra-n-butyl ammonium fluoride (2M solution in THF, 16 ml) and stirred at room temperature overnight. The solvent was evaporated and the residue partitioned between water and ethyl acetate. The organic phase was separated, washed with brine, dried over anhydrous magnesium sulphate and evaporated. The residue was chromatographed on silica gel eluting with 1-100% ethyl acetate in hexane, to afford the title compound (2.48 g, 44%).

reactant | 2-(4,5-Dibromo-2-thienyl)-1,3-dioxolane | BrC=1C=C(SC1Br)C1OCCO1 | C7H6Br2O2S
reactant | 3-(tert-butyldimethylsilyloxy)-1-iodopropane | 6.3 g, 1.1 equiv. | [Si](C)(C)(C(C)(C)C)OCCCI | C9H21IOSi
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 3-[3-Bromo-5-(1,3-dioxolan-2-yl)-2-thienyl]-1-propanol | 2.48 g, 44% | BrC1=C(SC(=C1)C1OCCO1)CCCO | C10H13BrO3S
